US07112594B2
N-(3-cyano-4-neopentyloxyphenyl)-6-isopropylthieno[2,3-b]pyridine-2-carboxamide
By the reaction and treatment in the same manner as in Example 6 using 6-isopropylthieno[2,3-b]pyridine-2-carboxylic acid (2 g) and 5-amino-2-neopentyloxybenzonitrile (1.9 g), the title compound (0.6 g) was obtained. melting point: 244-245° C.

reactant | 6-isopropylthieno[2,3-b]pyridine-2-carboxylic acid | 2 g | C(C)(C)C1=CC=C2C(=N1)SC(=C2)C(=O)O | C11H11NO2S
reactant | 5-amino-2-neopentyloxybenzonitrile | 1.9 g | NC=1C=CC(=C(C#N)C1)OCC(C)(C)C | C12H16N2O
product | N-(3-cyano-4-neopentyloxyphenyl)-6-isopropylthieno[2,3-b]pyridine-2-carboxamide | 0.6 g | C(#N)C=1C=C(C=CC1OCC(C)(C)C)NC(=O)C1=CC=2C(=NC(=CC2)C(C)C)S1 | C23H25N3O2S
